US07947689B2
5-[(6-Bromopyrazolo[1,5-a]pyrimidin-2-yl)carbonyl]-3-phenyl-4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 3-Phenyl-4,5,6,7-tetrahydro-isoxazolo[4,5-c]pyridine to provide the title compound.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 3-Phenyl-4,5,6,7-tetrahydro-isoxazolo[4,5-c]pyridine | C1(=CC=CC=C1)C1=NOC2=C1CNCC2 | C12H12N2O
product | 5-[(6-Bromopyrazolo[1,5-a]pyrimidin-2-yl)carbonyl]-3-phenyl-4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine | Yield: 69% | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CC1=C(CC2)ON=C1C1=CC=CC=C1 | C19H14BrN5O2
